Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ulcerative colitis
 
Major Surgical or Invasive Procedure:
Laparoscopic proctectomy with ileal pouch anal
anastomosis and diverting loop ileostomy.

 
History of Present Illness:
Mr. ___ presented to clinic in ___  for a visit, status 
post
laparoscopic abdominal colectomy with end ileostomy on ___ by Dr. ___.  He reported  doing well since his last 
appointment.   He denied any fever, chills, nausea, vomiting
or bleeding.  His appetite and energy were back to baseline.  
His
stoma is located in the lower right quadrant, beefy red, without 
signs of bleeding or trauma with the stoma or
surrounding it.  Mr. ___ reported he was anxious to get to the 
next
surgery.  Physical exam revealed an abdomen soft, non tender, 
non distended, active bowel sounds. Laparoscopic sites and 
incision well approximated.  Ileostomy
located at the lower right quadrant of the abdomen. Stoma
beefy red with no prolapse or bleeding. He was consented in 
clinic by Dr. ___  for the creation of a J-pouch with
diverting ileostomy.  Patient agreed to this plan, his questions
were answered. On ___ he presented to ___ to undergo 
Laparoscopic proctectomy with ileal pouch anal anastomosis and 
diverting loop ileostomy.
 
Past Medical History:
- Spinal fusion surgery (___) for kyphoscoliosis
- Mood disorder NOS
- Sinus surgery (___),
- Migraines
 
Social History:
___
Family History:
Sister has ulcerative colitis.
 
Physical Exam:
P/E:  
 VS: 97.9    128/77  83  18  97 RA  
 GEN: WD, WN in NAD  
 HEENT: NCAT, EOMI, anicteric  
 CV: RRR 
 PULM: normal excursion, no respiratory distress  
 ABD: soft, NT, less distention, gas and liquid stool in ostomy, 
incision c/d/i
 EXT: WWP, no CCE 
 NEURO: A&Ox3, no focal neurologic deficits  
 PSYCH: normal judgment/insight, normal memory, normal
mood/affect  
 
Pertinent Results:
___ 07:30AM BLOOD WBC-7.7 RBC-4.39* Hgb-12.6* Hct-39.4* 
MCV-90 MCH-28.7 MCHC-32.0 RDW-12.0 RDWSD-39.2 Plt ___
___ 07:09AM BLOOD WBC-10.6* RBC-4.63 Hgb-13.3* Hct-41.5 
MCV-90 MCH-28.7 MCHC-32.0 RDW-12.2 RDWSD-40.1 Plt ___
___ 07:34AM BLOOD WBC-10.6* RBC-4.42* Hgb-12.8* Hct-38.5* 
MCV-87 MCH-29.0 MCHC-33.2 RDW-11.7 RDWSD-37.5 Plt ___
___ 05:35PM BLOOD WBC-10.4*# RBC-5.30# Hgb-15.2# Hct-47.5# 
MCV-90 MCH-28.7 MCHC-32.0 RDW-12.0 RDWSD-39.1 Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:09AM BLOOD Plt ___
___ 07:34AM BLOOD Plt ___
___ 05:35PM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-88 UreaN-6 Creat-0.8 Na-138 K-4.2 
Cl-98 HCO3-28 AnGap-12
___ 07:09AM BLOOD Glucose-98 UreaN-5* Creat-0.8 Na-140 
K-4.3 Cl-103 HCO3-25 AnGap-12
___ 07:34AM BLOOD Glucose-91 UreaN-8 Creat-0.7 Na-141 K-4.2 
Cl-103 HCO3-24 AnGap-14
___ 05:35PM BLOOD Glucose-152* UreaN-6 Creat-1.0 Na-138 
K-3.9 Cl-97 HCO3-27 AnGap-14
___ 07:30AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.1
___ 07:09AM BLOOD Calcium-9.3 Phos-3.0 Mg-2.1
___ 07:34AM BLOOD Calcium-9.1 Phos-4.5 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with h/o UC refractory to medical 
management, he was admitted on ___ to undergo a 
laparoscopic proctectomy with ileal pouch anal anastomosis and 
diverting loop ileostomy. He tolerated well the procedure and 
achieved postoperative milestones on time. He presented high 
ileostomy output to 1300cc on POD1, improving with medical 
management until reaching 600cc over 18 hours at the date of 
discharge. He presented an isolated episode of emesis on POD2, 
by ___ he denied nausea, had no vomit episodes, WBC decreased 
to 7 (10), and ileostomy OP improved. He is currently feeling 
well, pain under control, no nausea, vomit, or GI complaints. He 
ambulates independently and has reassuring laboratory data. Ha 
agrees to discharge and will continue care at home. He was 
discharged with ___ help for ileostomy care, with instructions 
for daily weights and on a 30 day course of enoxaparin.
 
Medications on Admission:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
2.  Enoxaparin Sodium 40 mg SC DAILY Duration: 28 Days 
Start: ___, First Dose: First Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous once a day Disp 
#*28 Syringe Refills:*0 
3.  *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  PredniSONE 20 mg PO DAILY Duration: 2 Doses 
please see taper instructions in d/c instructions 
Tapered dose - DOWN 
RX *prednisone 5 mg 4 tablet(s) by mouth once a day Disp #*40 
Tablet Refills:*1 
5.  ARIPiprazole 4 mg PO DAILY  
6.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
7.  LamoTRIgine 300 mg PO DAILY  
8.  Multivitamins W/minerals 1 TAB PO DAILY  
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Enoxaparin Sodium 40 mg SC DAILY Duration: 30 Days 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*30 
Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0 
4.  ARIPiprazole 2 mg PO DAILY  
5.  BuPROPion 100 mg PO BID  
6.  LamoTRIgine 150 mg PO BID  
7. Loperamide OTC as needed per discharge instructions, which 
were reviewed with the patient

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ulcerative proctitis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

___ were admitted to ___ for a pouch placement and had a new 
ileostomy created. 

Ileostomy
 ___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.  
Please weigh yourself daily and call the office if your weight 
decreases, as this may also be an indicator of high ostomy 
output and dehydration.
 Please monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.  

Goal Ileostomy output is 500-1200cc. Here are general guides. If 
this does not work for ___, please call the office with any 
questions or concerns.
 1) Start with 1mg of loperamide 4 times a day for ileostomy 
output >500cc by noon, if by noon ___ have greater than 1000cc 
___ can take 2mg of loperamide 4 times a day 
 2) If the 2 loperamide 4 times a day does not slow down your 
output to be on tract for <1200cc in 24 hours, please add 2 
psyllium wafers three times a day 
 4) If the loperamide and wafers do not work, ___ can increase 
your loperamide to 4 tablets 4 times a day. Do not exceed 16mg 
in 24 hours. 
 3) If this does not work, ___ can add opium Max 100/day. ___ 
will not be prescribed this at discharge, but should call the 
office if despite 4mg 4 times a day of loperamide and 2 wafers 3 
times a day your output is above 1200cc per day.  The office 
will likely have ___ start with 1 drop 3 times a day. ___ can 
advance by 1 drop a day (1 drop three times a day--> 2 drops 
three times a day--> 3 drops three times a day). Please titrate 
slowly so that ___ do not get too thick of output and your 
output drops below 500cc per day. 
 4) Please make sure ___ continue to drink enough fluids to 
replace at minimum what is coming out of your ostomy. So if ___ 
are having 1500cc out of your ostomy, ___ need to drink at least 
1.5L of fluids. 
Call the office if ___ have any questions or concerns. 

For follow up, please measure and register your WEIGHT EVERY DAY 
until follow up. Call the office if ___ are losing weight, as 
this may be a sign of dehydration and result of increased ostomy 
output

If ___ have any of the following symptoms please call the office 
for advice ___:  
 fever greater than 101.5  
 increasing abdominal distension  
 increasing abdominal pain  
 nausea/vomiting  
 inability to tolerate food or liquids  
 prolonged loose stool  
 extended constipation  
 inability to urinate  

 Incisions:  
 Your laparoscopic surgical incisions on your abdomen which are 
closed with internal sutures. These are healing well however it 
is important that ___ monitor these areas for signs and symptoms 
of infection including: increasing redness of the incision 
lines, white/green/yellow/malodorous drainage, increased pain at 
the incision, increased warmth of the skin at the incision, or 
swelling of the area.  
 ___ may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips), these will fall off 
over time, please do not remove them. Please no baths or 
swimming until cleared by the surgical team.  

 Pain  
 It is expected that ___ will have pain after surgery and this 
pain will gradually improved over the first week or so ___ are 
home. ___ will especially have pain when changing positions and 
with movement. ___ may continue to take 2 Extra Strength Tylenol 
(1000mg) for pain every 8 hours around the clock and ___ may 
also take Advil (Ibuprofen) 600mg every hours for 7 days. Please 
do not take more than 3000mg of Tylenol in 24 hours or any other 
medications that contain Tylenol such as cold medication. Do not 
drink alcohol while or Tylenol. Please take Advil with food. If 
these medications are not controlling your pain to a point where 
___ can ambulate and preform minor tasks, ___ should take a dose 
of the narcotic pain medication oxycodone. Please take this only 
if needed for pain. Do not take with any other sedating 
medications or alcohol. Do not drive a car if taking narcotic 
pain medications.  

 Activity  
 ___ may feel weak or "washed out" for up to 6 weeks after 
surgery. No heavy lifting greater than a gallon of milk for 3 
weeks. ___ may climb stairs. ___ may go outside and walk, but 
avoid traveling long distances until ___ speak with your 
surgical team at your first follow-up visit. Your surgical team 
will clear ___ for heavier exercise and activity as the observe 
your progress at your follow-up appointment. ___ should only 
drive a car on your own if ___ are off narcotic pain medications 
and feel as if your reaction time is back to normal so ___ can 
react appropriately while driving.  

Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities.

 
Followup Instructions:
___